US05399703
N-[2-[3-(1H-Tetrazol-5-yl)methoxyphenoxy]phenyl]-4-hexyloxybenzamide
In 15 ml of N,N-dimethylformamide (DMF) was dissolved 1.5 g of N-[2-(3-cyanomethoxyphenoxy)phenyl]-4-hexyloxybenzamide followed by addition of 0.44 g of sodium azide and 0.37 g of ammonium chloride, and the mixture was stirred at 105°-110° C. for 1 hour. After cooling, the reaction mixture was diluted with ice-water and acidified with hydrochloric acid. The resulting precipitate was collected by filtration and recrystallized from ethanol to give 1.35 g of the title compound as white crystals, m.p. 158°-159° C.

reactant | N-[2-(3-cyanomethoxyphenoxy)phenyl]-4-hexyloxybenzamide | 1.5 g | C(#N)COC=1C=C(OC2=C(C=CC=C2)NC(C2=CC=C(C=C2)OCCCCCC)=O)C=CC1 | C27H28N2O4
reactant | sodium azide | 0.44 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.37 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[2-[3-(1H-Tetrazol-5-yl)methoxyphenoxy]phenyl]-4-hexyloxybenzamide | 1.35 g | N1N=NN=C1COC=1C=C(OC2=C(C=CC=C2)NC(C2=CC=C(C=C2)OCCCCCC)=O)C=CC1 | C27H29N5O4
